US06699861B1
2-Acetoxymethyl-7-chloro-6-methyl-3,4-dihydroquinazolin-4-one
A mixture of 7-chloro-2-chloromethyl-6-methyl-3,4-dihydroquinazolin-4-one (0.500 g, 2.06 mmol), anhydrous DMF (14 ml) and cesium acetate (1.58 g, 8.24 mmol) was placed in an oil bath preheated to 85° C., then stirred at this temperature for 2 hours and 15 min under argon. The reaction mixture was then allowed to cool to room temperature and the solvent was removed in vacuo. The residue was treated with hexanes (20 ml), collected by filtration, washed with hexanes (20 ml), water, and dried in vacuo over P2O5 (0.476 g, 87%), mp 220-225° C., 1H-NMR (DMSO-d6) 2.14 (s, 3H, CH3CO), 2.45 (s, 3H, 6-CH3), 4.95 (s, 2H, 2-CH2O), 7.70, 8.06 (2×s, 2H, 5-H and 8-H), 12.44 (s, 1H, N3—H).

reactant | 7-chloro-2-chloromethyl-6-methyl-3,4-dihydroquinazolin-4-one | 2.06 mmol, 0.500 g | ClC1=C(C=C2C(NC(=NC2=C1)CCl)=O)C | C10H8Cl2N2O
reactant | cesium acetate | 8.24 mmol, 1.58 g | C(C)(=O)[O-].[Cs+]
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
product | 2-Acetoxymethyl-7-chloro-6-methyl-3,4-dihydroquinazolin-4-one | C(C)(=O)OCC1=NC2=CC(=C(C=C2C(N1)=O)C)Cl | C12H11ClN2O3
